US08455491B2
Step 12.5. 2-bromo-3-pyridazin-4-yl-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazine
0.101 g of ortho-chloranil (0.41 mmol) in solution in 1 ml of toluene is added to a mixture of 0.16 g (0.32 mmol) of ethyl 4-[2-bromo-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazin-3-yl]-4H-pyridazine-1-carboxylate in 4 ml of chloroform. The mixture is stirred at ambient temperature for 1 hour and then diluted with 40 ml of dichloromethane. The solution is washed with 2 ml of a 2N aqueous solution of sodium hydroxide and then with a saturated solution of sodium chloride. The organic phase is dried over sodium sulfate and then concentrated under reduced pressure after the addition of silica gel. The evaporation residue is loaded onto a silica gel column and the product is purified by chromatography on a silica gel column, elution being carried out with a mixture of 0 to 10% of methanol in dichloromethane. 0.080 g of product is thus isolated.

reactant | ortho-chloranil | 0.41 mmol, 0.101 g | C1(=C(C(=O)C(=O)C(=C1Cl)Cl)Cl)Cl | C6Cl4O2
reactant | ethyl 4-[2-bromo-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazin-3-yl]-4H-pyridazine-1-carboxylate | 0.32 mmol, 0.16 g | BrC=1N=C2N(N=C(C=C2)N2CCC(CC2)N2CCCC2)C1C1C=NN(C=C1)C(=O)OCC | C22H28BrN7O2
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-bromo-3-pyridazin-4-yl-6-(4-pyrrolidin-1-ylpiperidin-1-yl)imidazo[1,2-b]pyridazine | 0.080 g | BrC=1N=C2N(N=C(C=C2)N2CCC(CC2)N2CCCC2)C1C1=CN=NC=C1 | C19H22BrN7
